US04568687
3-(1H-Imidazol-1-yl)-3-phenylpropanamine
A solution of 6.0 g. of 3-(1H-imidazol-1-yl)propiophenone in 100 ml. of methanol was stirred as 23.1 g. of ammonium acetate, and then 1.35 g. of sodium cyanoborohydrate was added. After 6 days at room temperature, 60 ml. of concentrated hydrochloric acid was added and the solvent was distilled off. The residue was treated with 65 ml. of 10N sodium hydroxide, 25 g. of sodium chloride and 200 ml. of methylene chloride and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate, and concentrated to obtain the desired product as a viscous oil, 5.4 g. When this was reacted with 4-chlorobenzoyl chloride and 4-bromobenzoyl chloride by the procedure of Example 27, the compounds set forth in Table XIX were obtained.

reactant | 3-(1H-imidazol-1-yl)propiophenone | N1(C=NC=C1)CCC(=O)C1=CC=CC=C1 | C12H12N2O
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-(1H-Imidazol-1-yl)-3-phenylpropanamine | N1(C=NC=C1)C(CCN)C1=CC=CC=C1 | C12H15N3
